US08242280B2
To a suspension of (3-bromo-benzyl)-triphenyl-phosphonium chloride (10 g, 23.2 mmol) in THF (100 mL) at 0° C. was added n-butyl lithium (10.2 mL, 2.5 N in hexane, 25.5 mmol) dropwise. The resulting orange suspension was stirred for 30 minutes. Propanal (1.61 g, 28 mmol) was added and the resulting mixture was stirred at room temperature for 2 hours. The mixture was cooled to 0° C. and cold hexane (500 mL) was added. The white precipitate was filtered, and the filtrate was concentrated. The residue was purified with flash chromatography using hexane to afford 1-bromo-3-but-1-enyl-benzene (4.4 g, 90%) as a mixture of 3:1 (E):(Z) isomers. MS: m/z 211 (M+H+). The mixture was distillled under vacuum to afford the (E) isomer (1 g, >95% E) and the (Z) isomer (200 mg, 75% Z).

reactant | (3-bromo-benzyl)-triphenyl-phosphonium chloride | 23.2 mmol, 10 g | [Cl-].BrC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1
reactant | n-butyl lithium | 25.5 mmol, 2.5 N, 10.2 mL | C(CCC)[Li]
reactant | Propanal | 28 mmol, 1.61 g | C(CC)=O | C3H6O
reactant | hexane | 500 mL | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-bromo-3-but-1-enyl-benzene | 4.4 g, 90% | BrC1=CC(=CC=C1)C=CCC | C10H11Br
